US06410563B1
To a suspension of 2,5-dibromopyridine (5.12 g, 1 eq) in ether at −78° C., was added n-butyllithium in hexane (1.05 eq) slowly. The resulting yellow-orange precipitate was strirred 30 min. Then acetone (1.54 ml, 1.05 eq) was added. The solution was kept at −78° C. for another 30 min. n-Butyllithium in hexane (1.1 eq) was slowly syringed to the resulting orange suspension. The suspension was then stirred 1 h at −78° C. Following this, 4-(methylthio)benzaldehyde (2.85 ml, 1.1 eq.) was added. The resulting suspension was warmed to −35° C. and quenched with a solution of NH4Cl (sat.). Water and EtOAc were added and the organic layer dried over MgSO4, evaporated and purified by flash chromatography (EtOAc) to give [5-(1-Hydroxy-1-methylethyl)-2-pyridinyl][4-(methylthio)phenyl]methanol.

reactant | 2,5-dibromopyridine | 5.12 g, 1 eq | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 1.05 eq | CCCCCC | C6H14
reactant | acetone | 1.54 ml, 1.05 eq | CC(=O)C | C3H6O
reactant | hexane | 1.1 eq | CCCCCC | C6H14
reactant | 4-(methylthio)benzaldehyde | 2.85 ml, 1.1 eq. | CSC1=CC=C(C=O)C=C1 | C8H8OS
solvent | ether | CCOCC | C4H10O
product | [5-(1-Hydroxy-1-methylethyl)-2-pyridinyl][4-(methylthio)phenyl]methanol | OC(C)(C)C=1C=CC(=NC1)C(O)C1=CC=C(C=C1)SC | C16H19NO2S
